US06177440B1
A mixture of methyl 2-bromo-3-aminobenzoate (10.2 g, 44.3 mM) and 5-(4-trifluoromethylphenyl)-1,3-cyclohexanedione (1.77 g, 6.93 mM) was heated at 150° C. under a stream of nitrogen for 20 minutes. The resultant solid was triturated with 4:1 EtOAc/Et2O to afford 2.18 g (74%) of 3-(3-carbomethoxy-2-bromoanilino)-5-(4-trifluoromethylphenyl)-cyclohex-2-en-1-one. 1H NMR (DMSO-d6) δ 8.9 (s, 1H), 7.75-7.5 (m, 7H), 3.9 (s, 3H), 3.5 (m, 1H), 2.9 (dd, J=14 and 9 Hz, 1H), 2.7 (dd, J=14 and 4 Hz, 1H), 2.55 (dd, J=14 and 9 Hz, 1H), 2.35 (dd, J=14 and 4 Hz, 1H). MS (ES) m/e 368, 370.

reactant | methyl 2-bromo-3-aminobenzoate | 44.3 mM, 10.2 g | BrC1=C(C(=O)OC)C=CC=C1N | C8H8BrNO2
reactant | 5-(4-trifluoromethylphenyl)-1,3-cyclohexanedione | 6.93 mM, 1.77 g | FC(C1=CC=C(C=C1)C1CC(CC(C1)=O)=O)(F)F | C13H11F3O2
product | 3-(3-carbomethoxy-2-bromoanilino)-5-(4-trifluoromethylphenyl)-cyclohex-2-en-1-one | 2.18 g, 74% | C(=O)(OC)C=1C(=C(NC2=CC(CC(C2)C2=CC=C(C=C2)C(F)(F)F)=O)C=CC1)Br | C21H17BrF3NO3
